US05256673
A mixture of 35.5 g of 3-[4-(4-phenyl-1,2,3,6-tetrahydropyridyl)-butyl]-5-cyanoindole [m.p. 167°; obtainable from the corresponding 5-formyl compound via the oxime], 27.1 g of NaOH, 520 ml of water and 420 ml of diethylene glycol monoethyl ether is stirred for 3 hours at a bath temperature of 140°. The mixture is cooled and worked up in the customary manner to give 3-[4-(4-phenyl-1,2,3,6-tetrahydropyridyl)-butyl]-indole-5-carboxamide, m.p. 200°-205°.

reactant | 3-[4-(4-phenyl-1,2,3,6-tetrahydropyridyl)-butyl]-5-cyanoindole | 35.5 g | C1(=CC=CC=C1)C=1CCN(CC1)CCCCC1=CNC2=CC=C(C=C12)C#N | C24H25N3
reactant | NaOH | 27.1 g | [OH-].[Na+]
reactant | diethylene glycol monoethyl ether | 420 ml | C(C)OCCOCCO | C6H14O3
solvent | water | 520 ml | O | H2O
product | 3-[4-(4-phenyl-1,2,3,6-tetrahydropyridyl)-butyl]-indole-5-carboxamide | C1(=CC=CC=C1)C=1CCN(CC1)CCCCC1=CNC2=CC=C(C=C12)C(=O)N | C24H27N3O
